US04933345
5-Benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carbaldehyde Oxime
500 mg of 5-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carbaldehyde is heated in 15 ml of ethanol to 70° C., combined with 84 mg of hydroxylamine hydrochloride in 10 ml of ethanol and heated for 1.5 hours to 70° C. Then the mixture is concentrated to 5 ml, poured on 40 ml of water, and suctioned off. The residue (450 mg) is utilized after drying in the subsequent stage without further purification.

reactant | 5-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carbaldehyde | 500 mg | C(C1=CC=CC=C1)OC1=C2C=3C(=C(N=CC3N(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1)C=O)COC | C28H24N2O5S
reactant | hydroxylamine hydrochloride | 84 mg | Cl.NO
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-Benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carbaldehyde Oxime | C(C1=CC=CC=C1)OC1=C2C=3C(=C(N=CC3N(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1)C=NO)COC | C28H25N3O5S
